US07820683B2
A mixture of 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine (10.2 g, 27.5 mmol) and sodium methoxide (4.46 g, 82.6 mmol) in methanol (250 ml) was heated at reflux for 24 hours. After cooling and evaporation of the solvents, the residue was dissolved in DCM. This solution was washed with water and brine and dried over MgSO4. Evaporation of the solvents gave 5-methoxy-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine as a beige solid (10.5 g, 100%); NMR spectrum (CDCl3) 4.11 (s, 3H), 5.75 (s, 2H), 6.87 (d, 1H), 6.91 (d, 1H), 7.19 (m, 1H), 7.57-7.42 (m, 4H), 7.64 (t, 1H), 8.09 (s, 1H), 8.22 (m, 1H), 8.59 (m, 2H), 9.83 (br s, 1H); Mass spectrum MH+ 383.

reactant | 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 27.5 mmol, 10.2 g | FC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C21H15FN6
reactant | sodium methoxide | 82.6 mmol, 4.46 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 5-methoxy-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 10.5 g, 100% | COC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C22H18N6O
